US05362906
Step 3: [1-Hydroxy-(E,E)-5,9,13-trimethyl-4,8,12-tetradecatrienyl]phosphonic acid
To a stirred solution of dimethyl[1-hydroxy-(E,E)-5,9,13-trimethyl-4,8,12-tetradecatrienyl]phosphonate (98 mg, 0.253 mmol) and 2,4,6-collidine (0.134 ml, 1.014 mmol) in dichloromethane (3 ml) under arson at 0° C., was added trimethylsilyl bromide (0.134 ml, 1.013 mmol) and the resulting mixture stirred at 0° C. for 30 min. and then at r.t. for 5 hr. The resulting white suspension was diluted with toluene (10 ml) and the solvent evaporated in vacuo, the resulting white solid was dissolved in ethylacetate and water and the pH was adjusted to 3 by the addition of 1M HCl solution. The organic layer was separated, dried (Na2SO4) and evaporated to afford a glassy residue. The solid was washed with acetonitrile (2×5 ml) and the white solid filtered off and dried in vacuo to afford the title compound.

reactant | dimethyl[1-hydroxy-(E,E)-5,9,13-trimethyl-4,8,12-tetradecatrienyl]phosphonate | 0.253 mmol, 98 mg | COP(OC)(=O)C(CC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)O | C19H35O4P
reactant | 2,4,6-collidine | 1.014 mmol, 0.134 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trimethylsilyl bromide | 1.013 mmol, 0.134 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [1-Hydroxy-(E,E)-5,9,13-trimethyl-4,8,12-tetradecatrienyl]phosphonic acid | OC(CC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(O)(O)=O | C17H31O4P
